US07425568B2
7-(5-Nitropyridin-2-yloxy)-2-phenylchroman-4-one was prepared as described for 5-Nitro-2-(2-phenylchroman-6-yloxy)pyridine in Example 1(b) using 150 mg of 7-hydroxyflavanone. 1H NMR (400 MHz, d6-DMSO) δ: 9.07 (d, 1H, J 2.8 Hz), 8.67 (dd, 1H, J 9.0, 2.8 Hz), 7.89 (d, 1H, 8.6 Hz), 7.60-7.35 (m, 6H), 7.04 (d, 1H, 2.1 Hz), 6.97 (dd, 1 H, 8.6, 2.1 HZ), 5.75 (dd, 1H, J 13.0, 2.7 Hz), 3.32 (dd, 1H, 16.9, 13.0 Hz), 2.85 (d, −16.9, 2.7 Hz).

reactant | 5-Nitro-2-(2-phenylchroman-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
reactant | 7-hydroxyflavanone | 150 mg | OC1=CC=C2C(CC(OC2=C1)C1=CC=CC=C1)=O | C15H12O3
product | 7-(5-Nitropyridin-2-yloxy)-2-phenylchroman-4-one | [N+](=O)([O-])C=1C=CC(=NC1)OC1=CC=C2C(CC(OC2=C1)C1=CC=CC=C1)=O | C20H14N2O5
